*-- pdngen: spice deck generated for chip 'chiplet5' PDN
*-- die chiplet5:  W/H: 0.001/0.001


.subckt chiplet5
+nd_pad_port_0_1
+nd_pad_port_1_0
+nd_pad_port_1_2
+nd_pad_port_2_1
*-- p/g port #: 4/5

*-- layer 1: net: 0 [X] VDD net from layer 1-2
rd_1_2_0_0_0 nd_1_0_1000_1000 nd_1_0_3000_1000 0.016324
rd_1_2_0_0_1 nd_1_0_3000_1000 nd_1_0_5000_1000 0.016324
rd_1_2_0_0_2 nd_1_0_5000_1000 nd_1_0_7000_1000 0.016324
rd_1_2_0_0_3 nd_1_0_7000_1000 nd_1_0_9000_1000 0.016324
rd_1_2_0_1_0 nd_1_0_1000_3000 nd_1_0_3000_3000 0.016324
rd_1_2_0_1_1 nd_1_0_3000_3000 nd_1_0_5000_3000 0.016324
rd_1_2_0_1_2 nd_1_0_5000_3000 nd_1_0_7000_3000 0.016324
rd_1_2_0_1_3 nd_1_0_7000_3000 nd_1_0_9000_3000 0.016324
rd_1_2_0_2_0 nd_1_0_1000_5000 nd_1_0_3000_5000 0.016324
rd_1_2_0_2_1 nd_1_0_3000_5000 nd_1_0_5000_5000 0.016324
rd_1_2_0_2_2 nd_1_0_5000_5000 nd_1_0_7000_5000 0.016324
rd_1_2_0_2_3 nd_1_0_7000_5000 nd_1_0_9000_5000 0.016324
rd_1_2_0_3_0 nd_1_0_1000_7000 nd_1_0_3000_7000 0.016324
rd_1_2_0_3_1 nd_1_0_3000_7000 nd_1_0_5000_7000 0.016324
rd_1_2_0_3_2 nd_1_0_5000_7000 nd_1_0_7000_7000 0.016324
rd_1_2_0_3_3 nd_1_0_7000_7000 nd_1_0_9000_7000 0.016324
rd_1_2_0_4_0 nd_1_0_1000_9000 nd_1_0_3000_9000 0.016324
rd_1_2_0_4_1 nd_1_0_3000_9000 nd_1_0_5000_9000 0.016324
rd_1_2_0_4_2 nd_1_0_5000_9000 nd_1_0_7000_9000 0.016324
rd_1_2_0_4_3 nd_1_0_7000_9000 nd_1_0_9000_9000 0.016324
*-- layer 1: net: 0 [X] VSS net from layer 1-2
*-- layer 2: net: 0 [Y] VDD net from layer 2-1
rd_2_1_0_0_0 nd_2_0_1000_1000 nd_2_0_1000_3000 0.016324
rd_2_1_0_0_1 nd_2_0_1000_3000 nd_2_0_1000_5000 0.016324
rd_2_1_0_0_2 nd_2_0_1000_5000 nd_2_0_1000_7000 0.016324
rd_2_1_0_0_3 nd_2_0_1000_7000 nd_2_0_1000_9000 0.016324
rd_2_1_0_1_0 nd_2_0_3000_1000 nd_2_0_3000_3000 0.016324
rd_2_1_0_1_1 nd_2_0_3000_3000 nd_2_0_3000_5000 0.016324
rd_2_1_0_1_2 nd_2_0_3000_5000 nd_2_0_3000_7000 0.016324
rd_2_1_0_1_3 nd_2_0_3000_7000 nd_2_0_3000_9000 0.016324
rd_2_1_0_2_0 nd_2_0_5000_1000 nd_2_0_5000_3000 0.016324
rd_2_1_0_2_1 nd_2_0_5000_3000 nd_2_0_5000_5000 0.016324
rd_2_1_0_2_2 nd_2_0_5000_5000 nd_2_0_5000_7000 0.016324
rd_2_1_0_2_3 nd_2_0_5000_7000 nd_2_0_5000_9000 0.016324
rd_2_1_0_3_0 nd_2_0_7000_1000 nd_2_0_7000_3000 0.016324
rd_2_1_0_3_1 nd_2_0_7000_3000 nd_2_0_7000_5000 0.016324
rd_2_1_0_3_2 nd_2_0_7000_5000 nd_2_0_7000_7000 0.016324
rd_2_1_0_3_3 nd_2_0_7000_7000 nd_2_0_7000_9000 0.016324
rd_2_1_0_4_0 nd_2_0_9000_1000 nd_2_0_9000_3000 0.016324
rd_2_1_0_4_1 nd_2_0_9000_3000 nd_2_0_9000_5000 0.016324
rd_2_1_0_4_2 nd_2_0_9000_5000 nd_2_0_9000_7000 0.016324
rd_2_1_0_4_3 nd_2_0_9000_7000 nd_2_0_9000_9000 0.016324
*-- layer 2: net: 0 [Y] VSS net from layer 2-1
*-- via layer 1-2: net: 0 VDD net
rvd_1_0_0_0 nd_1_0_1000_1000 nd_2_0_1000_1000 0.005
rvd_1_0_0_1 nd_1_0_3000_1000 nd_2_0_3000_1000 0.005
rvd_1_0_0_2 nd_1_0_5000_1000 nd_2_0_5000_1000 0.005
rvd_1_0_0_3 nd_1_0_7000_1000 nd_2_0_7000_1000 0.005
rvd_1_0_0_4 nd_1_0_9000_1000 nd_2_0_9000_1000 0.005
rvd_1_0_1_0 nd_1_0_1000_3000 nd_2_0_1000_3000 0.005
rvd_1_0_1_1 nd_1_0_3000_3000 nd_2_0_3000_3000 0.005
rvd_1_0_1_2 nd_1_0_5000_3000 nd_2_0_5000_3000 0.005
rvd_1_0_1_3 nd_1_0_7000_3000 nd_2_0_7000_3000 0.005
rvd_1_0_1_4 nd_1_0_9000_3000 nd_2_0_9000_3000 0.005
rvd_1_0_2_0 nd_1_0_1000_5000 nd_2_0_1000_5000 0.005
rvd_1_0_2_1 nd_1_0_3000_5000 nd_2_0_3000_5000 0.005
rvd_1_0_2_2 nd_1_0_5000_5000 nd_2_0_5000_5000 0.005
rvd_1_0_2_3 nd_1_0_7000_5000 nd_2_0_7000_5000 0.005
rvd_1_0_2_4 nd_1_0_9000_5000 nd_2_0_9000_5000 0.005
rvd_1_0_3_0 nd_1_0_1000_7000 nd_2_0_1000_7000 0.005
rvd_1_0_3_1 nd_1_0_3000_7000 nd_2_0_3000_7000 0.005
rvd_1_0_3_2 nd_1_0_5000_7000 nd_2_0_5000_7000 0.005
rvd_1_0_3_3 nd_1_0_7000_7000 nd_2_0_7000_7000 0.005
rvd_1_0_3_4 nd_1_0_9000_7000 nd_2_0_9000_7000 0.005
rvd_1_0_4_0 nd_1_0_1000_9000 nd_2_0_1000_9000 0.005
rvd_1_0_4_1 nd_1_0_3000_9000 nd_2_0_3000_9000 0.005
rvd_1_0_4_2 nd_1_0_5000_9000 nd_2_0_5000_9000 0.005
rvd_1_0_4_3 nd_1_0_7000_9000 nd_2_0_7000_9000 0.005
rvd_1_0_4_4 nd_1_0_9000_9000 nd_2_0_9000_9000 0.005
*-- via layer 1-2: net: 0 VSS net
id_0_0_0_0 nd_1_0_1000_1000 0 pwl(0 0.0 3.153e-01ns 0.0  3.653e-01ns 3.1e-03  6.108e-01ns 3.1e-03  6.608e-01ns 0.0)
rdesr_0_0_0_0 nd_1_0_1000_1000 nd_1_0_1000_1000_ci 97.6523
cd_0_0_0_0 nd_1_0_1000_1000_ci 0 3.11723e-13
id_0_0_0_1 nd_1_0_3000_1000 0 pwl(0 0.0 4.655e-01ns 0.0  5.155e-01ns 1.1e-03  7.733e-01ns 1.1e-03  8.233e-01ns 0.0)
rdesr_0_0_0_1 nd_1_0_3000_1000 nd_1_0_3000_1000_ci 255.281
cd_0_0_0_1 nd_1_0_3000_1000_ci 0 8.21039e-14
id_0_0_0_2 nd_1_0_5000_1000 0 pwl(0 0.0 2.251e-01ns 0.0  2.751e-01ns 4.8e-03  4.971e-01ns 4.8e-03  5.471e-01ns 0.0)
rdesr_0_0_0_2 nd_1_0_5000_1000 nd_1_0_5000_1000_ci 68.4389
cd_0_0_0_2 nd_1_0_5000_1000_ci 0 2.85654e-12
id_0_0_0_3 nd_1_0_7000_1000 0 pwl(0 0.0 6.935e-01ns 0.0  7.435e-01ns 3.3e-03  9.177e-01ns 3.3e-03  9.677e-01ns 0.0)
rdesr_0_0_0_3 nd_1_0_7000_1000 nd_1_0_7000_1000_ci 120.397
cd_0_0_0_3 nd_1_0_7000_1000_ci 0 8.20776e-13
id_0_0_0_4 nd_1_0_9000_1000 0 pwl(0 0.0 2.551e-01ns 0.0  3.051e-01ns 1.4e-03  8.620e-01ns 1.4e-03  9.120e-01ns 0.0)
rdesr_0_0_0_4 nd_1_0_9000_1000 nd_1_0_9000_1000_ci 106.133
cd_0_0_0_4 nd_1_0_9000_1000_ci 0 1.64747e-12
id_0_0_0_5 nd_1_0_1000_3000 0 pwl(0 0.0 5.957e-01ns 0.0  6.457e-01ns 3.0e-03  9.131e-01ns 3.0e-03  9.631e-01ns 0.0)
rdesr_0_0_0_5 nd_1_0_1000_3000 nd_1_0_1000_3000_ci 95.2595
cd_0_0_0_5 nd_1_0_1000_3000_ci 0 8.14718e-13
id_0_0_0_6 nd_1_0_3000_3000 0 pwl(0 0.0 6.143e-01ns 0.0  6.643e-01ns 8.5e-03  7.374e-01ns 8.5e-03  7.874e-01ns 0.0)
rdesr_0_0_0_6 nd_1_0_3000_3000 nd_1_0_3000_3000_ci 85.8833
cd_0_0_0_6 nd_1_0_3000_3000_ci 0 2.10802e-12
id_0_0_0_7 nd_1_0_5000_3000 0 pwl(0 0.0 6.291e-01ns 0.0  6.791e-01ns 4.5e-03  8.876e-01ns 4.5e-03  9.376e-01ns 0.0)
rdesr_0_0_0_7 nd_1_0_5000_3000 nd_1_0_5000_3000_ci 78.0405
cd_0_0_0_7 nd_1_0_5000_3000_ci 0 2.36762e-12
id_0_0_0_8 nd_1_0_7000_3000 0 pwl(0 0.0 1.938e-01ns 0.0  2.438e-01ns 3.0e-03  4.492e-01ns 3.0e-03  4.992e-01ns 0.0)
rdesr_0_0_0_8 nd_1_0_7000_3000 nd_1_0_7000_3000_ci 116.777
cd_0_0_0_8 nd_1_0_7000_3000_ci 0 1.61012e-12
id_0_0_0_9 nd_1_0_9000_3000 0 pwl(0 0.0 6.624e-01ns 0.0  7.124e-01ns 8.4e-04  9.038e-01ns 8.4e-04  9.538e-01ns 0.0)
rdesr_0_0_0_9 nd_1_0_9000_3000 nd_1_0_9000_3000_ci 441.276
cd_0_0_0_9 nd_1_0_9000_3000_ci 0 2.07738e-13
id_0_0_0_10 nd_1_0_1000_5000 0 pwl(0 0.0 2.233e-01ns 0.0  2.733e-01ns 3.6e-03  4.925e-01ns 3.6e-03  5.425e-01ns 0.0)
rdesr_0_0_0_10 nd_1_0_1000_5000 nd_1_0_1000_5000_ci 92.7827
cd_0_0_0_10 nd_1_0_1000_5000_ci 0 2.10096e-12
id_0_0_0_11 nd_1_0_3000_5000 0 pwl(0 0.0 2.425e-01ns 0.0  2.925e-01ns 2.9e-03  6.106e-01ns 2.9e-03  6.606e-01ns 0.0)
rdesr_0_0_0_11 nd_1_0_3000_5000 nd_1_0_3000_5000_ci 83.953
cd_0_0_0_11 nd_1_0_3000_5000_ci 0 1.5066e-12
id_0_0_0_12 nd_1_0_5000_5000 0 pwl(0 0.0 2.556e-01ns 0.0  3.056e-01ns 3.2e-03  6.272e-01ns 3.2e-03  6.772e-01ns 0.0)
rdesr_0_0_0_12 nd_1_0_5000_5000 nd_1_0_5000_5000_ci 76.7867
cd_0_0_0_12 nd_1_0_5000_5000_ci 0 1.6929e-12
id_0_0_0_13 nd_1_0_7000_5000 0 pwl(0 0.0 3.963e-01ns 0.0  4.463e-01ns 1.4e-02  4.533e-01ns 1.4e-02  5.033e-01ns 0.0)
rdesr_0_0_0_13 nd_1_0_7000_5000 nd_1_0_7000_5000_ci 113.697
cd_0_0_0_13 nd_1_0_7000_5000_ci 0 1.17857e-12
id_0_0_0_14 nd_1_0_9000_5000 0 pwl(0 0.0 4.137e-01ns 0.0  4.637e-01ns 7.2e-04  7.221e-01ns 7.2e-04  7.721e-01ns 0.0)
rdesr_0_0_0_14 nd_1_0_9000_5000 nd_1_0_9000_5000_ci 407.458
cd_0_0_0_14 nd_1_0_9000_5000_ci 0 9.17606e-14
id_0_0_0_15 nd_1_0_1000_7000 0 pwl(0 0.0 8.827e-01ns 0.0  9.327e-01ns 6.5e-03  9.827e-01ns 0.0)
rdesr_0_0_0_15 nd_1_0_1000_7000 nd_1_0_1000_7000_ci 278.713
cd_0_0_0_15 nd_1_0_1000_7000_ci 0 1.47474e-13
id_0_0_0_16 nd_1_0_3000_7000 0 pwl(0 0.0 4.412e-01ns 0.0  4.912e-01ns 5.1e-03  5.241e-01ns 5.1e-03  5.741e-01ns 0.0)
rdesr_0_0_0_16 nd_1_0_3000_7000 nd_1_0_3000_7000_ci 213.434
cd_0_0_0_16 nd_1_0_3000_7000_ci 0 6.73235e-13
id_0_0_0_17 nd_1_0_5000_7000 0 pwl(0 0.0 4.605e-01ns 0.0  5.105e-01ns 1.3e-02  5.489e-01ns 1.3e-02  5.989e-01ns 0.0)
rdesr_0_0_0_17 nd_1_0_5000_7000 nd_1_0_5000_7000_ci 75.4265
cd_0_0_0_17 nd_1_0_5000_7000_ci 0 6.34057e-13
id_0_0_0_18 nd_1_0_7000_7000 0 pwl(0 0.0 4.777e-01ns 0.0  5.277e-01ns 5.3e-03  6.313e-01ns 5.3e-03  6.813e-01ns 0.0)
rdesr_0_0_0_18 nd_1_0_7000_7000 nd_1_0_7000_7000_ci 110.401
cd_0_0_0_18 nd_1_0_7000_7000_ci 0 8.87151e-13
id_0_0_0_19 nd_1_0_9000_7000 0 pwl(0 0.0 7.026e-01ns 0.0  7.526e-01ns 4.2e-03  9.210e-01ns 4.2e-03  9.710e-01ns 0.0)
rdesr_0_0_0_19 nd_1_0_9000_7000 nd_1_0_9000_7000_ci 98.4058
cd_0_0_0_19 nd_1_0_9000_7000_ci 0 1.76024e-12
id_0_0_0_20 nd_1_0_1000_9000 0 pwl(0 0.0 5.931e-01ns 0.0  6.431e-01ns 2.8e-03  7.160e-01ns 2.8e-03  7.660e-01ns 0.0)
rdesr_0_0_0_20 nd_1_0_1000_9000 nd_1_0_1000_9000_ci 260.565
cd_0_0_0_20 nd_1_0_1000_9000_ci 0 2.9337e-13
id_0_0_0_21 nd_1_0_3000_9000 0 pwl(0 0.0 1.536e-01ns 0.0  2.036e-01ns 1.8e-03  7.602e-01ns 1.8e-03  8.102e-01ns 0.0)
rdesr_0_0_0_21 nd_1_0_3000_9000 nd_1_0_3000_9000_ci 80.2226
cd_0_0_0_21 nd_1_0_3000_9000_ci 0 9.9865e-13
id_0_0_0_22 nd_1_0_5000_9000 0 pwl(0 0.0 1.773e-01ns 0.0  2.273e-01ns 2.3e-03  4.214e-01ns 2.3e-03  4.714e-01ns 0.0)
rdesr_0_0_0_22 nd_1_0_5000_9000 nd_1_0_5000_9000_ci 162.778
cd_0_0_0_22 nd_1_0_5000_9000_ci 0 5.10035e-13
id_0_0_0_23 nd_1_0_7000_9000 0 pwl(0 0.0 6.376e-01ns 0.0  6.876e-01ns 6.8e-03  7.615e-01ns 6.8e-03  8.115e-01ns 0.0)
rdesr_0_0_0_23 nd_1_0_7000_9000 nd_1_0_7000_9000_ci 107.455
cd_0_0_0_23 nd_1_0_7000_9000_ci 0 1.72775e-12
id_0_0_0_24 nd_1_0_9000_9000 0 pwl(0 0.0 6.550e-01ns 0.0  7.050e-01ns 3.4e-03  9.355e-01ns 3.4e-03  9.855e-01ns 0.0)
rdesr_0_0_0_24 nd_1_0_9000_9000 nd_1_0_9000_9000_ci 95.4695
cd_0_0_0_24 nd_1_0_9000_9000_ci 0 9.49217e-13

*-- intentional decap
cd_decap_0_0_0_0 nd_1_0_1000_1000 0 1.32716e-10
cd_decap_0_0_0_1 nd_1_0_3000_1000 0 5.07676e-11
cd_decap_0_0_0_2 nd_1_0_5000_1000 0 1.89366e-10
cd_decap_0_0_0_3 nd_1_0_7000_1000 0 1.07644e-10
cd_decap_0_0_0_4 nd_1_0_9000_1000 0 1.22111e-10
cd_decap_0_0_0_5 nd_1_0_1000_3000 0 1.36049e-10
cd_decap_0_0_0_6 nd_1_0_3000_3000 0 1.50902e-10
cd_decap_0_0_0_7 nd_1_0_5000_3000 0 1.66068e-10
cd_decap_0_0_0_8 nd_1_0_7000_3000 0 1.10981e-10
cd_decap_0_0_0_9 nd_1_0_9000_3000 0 2.93694e-11
cd_decap_0_0_0_10 nd_1_0_1000_5000 0 1.39681e-10
cd_decap_0_0_0_11 nd_1_0_3000_5000 0 1.54372e-10
cd_decap_0_0_0_12 nd_1_0_5000_5000 0 1.68779e-10
cd_decap_0_0_0_13 nd_1_0_7000_5000 0 1.13987e-10
cd_decap_0_0_0_14 nd_1_0_9000_5000 0 3.1807e-11
cd_decap_0_0_0_15 nd_1_0_1000_7000 0 4.64995e-11
cd_decap_0_0_0_16 nd_1_0_3000_7000 0 6.07214e-11
cd_decap_0_0_0_17 nd_1_0_5000_7000 0 1.71823e-10
cd_decap_0_0_0_18 nd_1_0_7000_7000 0 1.1739e-10
cd_decap_0_0_0_19 nd_1_0_9000_7000 0 1.317e-10
cd_decap_0_0_0_20 nd_1_0_1000_9000 0 4.9738e-11
cd_decap_0_0_0_21 nd_1_0_3000_9000 0 1.6155e-10
cd_decap_0_0_0_22 nd_1_0_5000_9000 0 7.96177e-11
cd_decap_0_0_0_23 nd_1_0_7000_9000 0 1.20609e-10
cd_decap_0_0_0_24 nd_1_0_9000_9000 0 1.3575e-10

*-- p/g pad array
xd_pad_0_1 nd_pad_port_0_1 nd_pad_0_1 ubump_subckt
xd_pad_1_0 nd_pad_port_1_0 nd_pad_1_0 ubump_subckt
xd_pad_1_2 nd_pad_port_1_2 nd_pad_1_2 ubump_subckt
xd_pad_2_1 nd_pad_port_2_1 nd_pad_2_1 ubump_subckt
.include 'ubump.subckt'

*-- pad to via
rd_pad2via_0_1 nd_pad_0_1 nd_2_0_3000_5000  0.001
rd_pad2via_1_0 nd_pad_1_0 nd_2_0_5000_3000  0.001
rd_pad2via_1_2 nd_pad_1_2 nd_2_0_5000_7000  0.001
rd_pad2via_2_1 nd_pad_2_1 nd_2_0_7000_5000  0.001

.ends chiplet5
